US07569589B2
To the solution of 4-iodo-2-(methylthio)pyrimidine (2.52 g, 10 mmol) in THF (50 mL) at 0 ° C. was added i-PrMgCl (5 mL, 2.0 M, 10 mmol) and stirred for 1 h. 3-cyanobenzaldehyde (1.31 g, 10 mmol) was added. The mixture was stirred at 0° C. for 2 h. The reaction was quenched with saturated aqueous NH4Cl solution and extracted with CH2Cl2. The combined organic layer was dried, filtered, and concentrated. The residue was purified by silica gel chromatography (20-50% EtOAc in hexane) to give 3-{hydroxy[2-(methylthio)pyrimidin-4-yl]methyl}benzonitrile. 1H-NMR (500 MHz, CDCl3) δ 8.46 (d, 1H, J=5.1), 7.72 (s, 1H), 7.65 (d, 1H, J=7.9), 7.61 (d, 1H, J=7.8), 7.48 (t, 1H, J=7.6), 6.84 (d, 1H, J=5.1), 5.69 (d, 1H, J=3.7), 4.58 (d, 1H, J=4.1), 2.60 (s, 3H). LRMS m/z (M+H) Calcd: 258.3, found: 258.1.

reactant | 4-iodo-2-(methylthio)pyrimidine | 10 mmol, 2.52 g | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | i-PrMgCl | 10 mmol, 2.0 M, 5 mL | C(C)(C)[Mg]Cl
reactant | 3-cyanobenzaldehyde | 10 mmol, 1.31 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-{hydroxy[2-(methylthio)pyrimidin-4-yl]methyl}benzonitrile | OC(C=1C=C(C#N)C=CC1)C1=NC(=NC=C1)SC | C13H11N3OS
